US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(trans-4-hydroxycinnamoyl)-L-lysine (Compound No. 188)
Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-L-lysine was reacted with trans-4-hydroxycinnamic acid under the conditions described in example 86 to yield 45% of the desired product.

reactant | Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C | C17H28N2O4S
reactant | trans-4-hydroxycinnamic acid | OC1=CC=C(/C=C/C(=O)O)C=C1 | C9H8O3
product | Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(trans-4-hydroxycinnamoyl)-L-lysine | 45% | C(C(C)C)N([C@@H](CCCCNC(\C=C\C1=CC=C(C=C1)O)=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C | C26H34N2O6S
